US06159962
b) 2-Ethoxymethyleneamino-3-carboethoxy-4-methyl-5-dimethylcarbamoylthiophene
2.0 ml of acetic anhydride were added to 30.6 g (119 mM [sic]) of 2-amino-3-carboethoxy-4-methyl-5-dimethylcarbamoylthiophene in 150 ml of triethyl orthoformate and refluxed under nitrogen for 2 h. The mixture was then completely evaporated in a rotary evaporator at 80° C. 35.6 g (96%) of crude product were isolated as a dark oil which is sufficiently pure for the next reaction.

reactant | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-3-carboethoxy-4-methyl-5-dimethylcarbamoylthiophene | 119 mM, 30.6 g | NC=1SC(=C(C1C(=O)OCC)C)C(N(C)C)=O | C11H16N2O3S
solvent | triethyl orthoformate | 150 ml | C(OCC)(OCC)OCC | C7H16O3
product | 2-Ethoxymethyleneamino-3-carboethoxy-4-methyl-5-dimethylcarbamoylthiophene | 35.6 g, 96% | C(C)OC=NC=1SC(=C(C1C(=O)OCC)C)C(N(C)C)=O | C14H20N2O4S
